* C:\Users\SNA1BP\Documents\Masters-thesis\LTspice\Debounce.asc
* Generated by LTspice 24.1.10 for Windows.
V1 3V3 0 3.3V
R1 3V3 N006 1k
R2 N007 N006 1k
C1 N007 0 100n
S1 0 N006 TIMING 0 SW_1
V2 TIMING 0 PULSE(0 3.3 0.1ms 1u 1u 6ms 12ms)
R5 3V3 N003 1k
R6 N004 N003 1k
C3 N004 0 100n
M1 N003 N008 0 0 BSS145
R7 N008 TIMING 1k
R8 N008 0 100k
M2 N002 N007 0 0 BSS145
S3 N001 3V3 TIMING 0 SW_1
R9 N001 N005 1k
R10 N005 0 10k
C4 N005 0 100n
R3 3V3 N002 1k
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\SNA1BP\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 24ms
.Model SW_1 SW(Ron=1m Roff=100Meg Vt=0.5)
.backanno
.end
